### PR TITLE
Introducing generic constraints

### PR DESCRIPTION
**Pull request by vsiles**
Introducing generic constraints: each class can specify a set of constraints to further refine its generic.
For example, one can now write

```
type arraykey = int | string;
class Box<T> where T <: arraykey { ... }
```

So an instance of Box can only create with `T` that are subtypes of `arraykey`.

### CODE REVIEW

File: theories/interp.v [hunk 1]
```diff
@@ -105,53 +108,52 @@ Section proofs.
...
-   Notation ty_interpO := (lang_ty -d> listO (interpO Σ) -n> interpO Σ).
+  Notation ty_interpO := (lang_ty -d> interpO Σ).
 
-   Lemma ty_interpO_ne : ∀ (rec: ty_interpO) ty, NonExpansive (rec ty).
-   Proof.
-     move => rec ty.
-     apply _.
-   Qed.
+  Variable Σc : list constraint.
+  Variable Σi : list (interp Σ).
```
Comment (vsiles) [inline theories/interp.v:114]: This change simplifies a lot of the Iris stuff (no more non expansive proofs w.r.t. to these inputs).

File: theories/interp.v [hunk 2]
```diff
@@ -488,181 +416,229 @@ Section proofs.
...
+    (∀ v ty, ⌜lty.(ctxt) !! v = Some ty⌝ -∗
+    ∃ val, ⌜le.(lenv) !! v = Some val⌝ ∗ interp_type ty val)%I.
+
+  Section inclusion.
+    Hypothesis Σcoherency : Σinterp.
+
+    Hypothesis wfΣc : Forall wf_constraint Σc.
+
+    Hypothesis wfΣi : interp_env_as_mixed.
+
```
Comment (vsiles) [inline theories/interp.v:438]: Same here. Slight change in the way we write the lemmas hypothesis lead to:
- change in indentation
- moved (but didn't change) `interp_local_tys_is_inclusion` in the file

But the proof itself didn't change. Only the new subtype rule case was added, see below

File: theories/interp.v [hunk 3]
```diff
@@ -488,181 +416,229 @@ Section proofs.
...
+            by iAssumption.
+        - done.
+        - iIntros "h".
+          iApply subtype_is_inclusion_aux; [done | done | done | done | exact h1 | | ].
+          + apply subtype_wf in h0; [ | done | done | done ].
+            by assumption.
+          + iApply subtype_is_inclusion_aux; [done | done | done | done | exact h0 | done | ].
+            by iAssumption.
+        - apply elem_of_list_lookup_1 in hin as [i hin].
+          by apply Σcoherency in hin.
```
Comment (vsiles) [inline theories/interp.v:567]: Only real change here: addressing the new `SubConstraint` rule

File: theories/interp.v [hunk 4]
```diff
@@ -696,51 +671,16 @@ Section proofs.
     rewrite /wf_cdef_parent H0 in H.
     by repeat destruct H as [? H].
   Qed.
-
```
Comment (vsiles) [inline theories/interp.v:699]: These didn't change, they moved up in the file

File: theories/interp.v [hunk 5]
```diff
@@ -166,124 +168,57 @@ Section proofs.
...
       | UnionT A B => interp_union (go A) (go B)
       | InterT A B => interp_inter (go A) (go B)
-      | GenT n => interp_generic σi n
-      | ExT cname => interp_ex σi cname rec
+      | GenT n => interp_generic n
+      | ExT cname => interp_ex cname rec
       end.
   End interp_type_pre_rec.
 
-  Local Instance interp_class_ne cname σc (rec: ty_interpO) :
```
Comment (vsiles) [inline theories/interp.v:211]: Removed because of the above comment

**Review by vsiles — COMMENTED** [review]
Most of the changes here are due to the addition of the new constraint set to subtype (and subsequent) definitions.

I commented on the main peculiar/structural differences.

The crux of this PR is the definition of `ok_ty` in `typing.v` and the update to `NewTy` (checking constraint) and adequacy (Method call case)

File: theories/adequacy.v [hunk 6]
```diff
@@ -628,13 +647,19 @@ Section proofs.
...
+       * To make the proof easier, we add all the constraints in the mix.
+       * However as we'll prove just after, Σc imply all the other,
+       * so we can only keep Σc in the end
+       *)
       assert (mdef0_wt:
         ∃ rty, wf_lty rty ∧
-        cmd_has_ty (subst_lty σt {| type_of_this := (orig0, σ0);
-                                 ctxt := subst_ty σ0 <$> methodargs omdef0 |})
+        cmd_has_ty (Σc ++ subst_constraints σt (def1.(constraints) ++ subst_constraints σ0 odef0.(constraints)))
+                   (subst_lty σt {| type_of_this := (orig0, σ0); ctxt := subst_ty σ0 <$> methodargs omdef0 |})
```
Comment (vsiles) [inline theories/adequacy.v:659]: These are the constraints I mention in the inlined comment. As you'll see just after, only `Σc` is enough, because it implies all the others. However this assertion relies heavily on substitution to type the body and return expressions correctly.

The substitution lemma of `ok_ty` brings in additional constraints, so it was easier to state it with full constraints, and then use the weakening/elimination lemmas to trim it and only leave `Σc`

File: theories/adequacy.v [hunk 7]
```diff
@@ -721,14 +766,52 @@ Section proofs.
           apply h2 in h1.
           by apply h1 in hk.
       }
+      assert (hconstraints:
+        ∀ i c,
+          subst_constraints σt
+            (constraints def1 ++ subst_constraints σ0 (constraints odef0)) !! i = Some c →
+          Σc ⊢ c.1 <: c.2).
```
Comment (vsiles) [inline theories/adequacy.v:773]: New helper statement that will be used with most usage of `*_constraint_elim` lemmas.
It states that Σc implies the constraints of t1 and orig0, so we can only keep Σc in the constraint set.
